US06011174
(5) Preparation of 3,4-bis(diphenylmethyloxycarbonyl)phenylacetic acid
0.52 g of 4-carboxymethylphthalic acid was dissolved in 10 ml of acetone, and a solution of 0.89 g of diphenyldiazomethane in acetone (20 ml) was dropwise added over a period of 15 minutes at room temperature with stirring. After completion of the dropwise addition, the mixture was stirred at room temperature overnight. Then, the solvent was distilled off, and then, the residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1→ethyl acetate) to obtain 0.67 g of the above identified compound as a colorless oily substance.

reactant | 4-carboxymethylphthalic acid | 0.52 g | C(=O)(O)CC=1C=C(C(C(=O)O)=CC1)C(=O)O | C10H8O6
reactant | diphenyldiazomethane | 0.89 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3,4-bis(diphenylmethyloxycarbonyl)phenylacetic acid | C1(=CC=CC=C1)C(OC(=O)C=1C=C(C=CC1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O)C1=CC=CC=C1 | C36H28O6
